US08076349B2
To 612 mg (1.23 mmol) of (3S,4S)-3-[1-isopropyl-3-methyl-bicyclo[3.2.1]-2-oxo-1β,3,8-triaza-spiro[4.5]dodec-8-ylmethyl]-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester in DCM (12 mL) was added TFA (3.3 mL). The reaction mixture was stirred for 0.75 hour at room temperature, neutralized with 1N NaOH (40 mL) and extracted with DCM. The organic layer was dried over sodium sulfate and concentrated to give 448 mg (88%) of (3R,4S)-3-[(1-isopropyl-3-methyl-bicyclo[3.2.1]-2-oxo-1β,3,8-triaza-spiro[4.5]dodec-8-ylmethyl]-4-phenyl-pyrrolidine as a white foam.

reactant | 4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(C1)C1=CC=CC=C1 | C15H21NO2
reactant | TFA | 3.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 1N, 40 mL | [OH-].[Na+]
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-phenyl-pyrrolidine | C1(=CC=CC=C1)C1CCNC1 | C10H13N
